US07262220B2
b) 1-(2-Chloro-4,5-difluorobenzoyl)-3-(2-methoxy-5-nitrophenyl)urea
4.0 g (23.8 mmol) of 2-methoxy-5-nitroaniline were dissolved in 10 ml of N-methyl-2-pyrrolidinone, and 5.2 g (23.8 mmol) of 2-chloro-4,5-difluorobenzoyl isocyanate were added. Slight warming occurred. After 15 minutes at room temperature, diethyl ether was added, and the resulting precipitate was filtered off with suction. 6.6 g (79%) of the desired product were obtained.

reactant | 2-methoxy-5-nitroaniline | 23.8 mmol, 4.0 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | 23.8 mmol, 5.2 g | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(2-Chloro-4,5-difluorobenzoyl)-3-(2-methoxy-5-nitrophenyl)urea | 6.6 g, 79% | ClC1=C(C(=O)NC(=O)NC2=C(C=CC(=C2)[N+](=O)[O-])OC)C=C(C(=C1)F)F | C15H10ClF2N3O5
